US05958821
In an oxygen atmosphere, a mixture of 10 millimoles of fluorene, 1 millimole of N-hydroxyphthalimide, 0.05 millimole of acetylacetonatomanganese Mn(AA)3 and 25 milliliters of benzonitrile was stirred at a temperature of 100° C. for six hours. Products in the reaction mixture were analyzed with gas chromatography, and fluorene was transformed into fluorenone (yield 28%) with a transformation rate of 32 percent.

reactant | oxygen | O=O | O2
reactant | fluorene | 10 millimoles | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | N-hydroxyphthalimide | 1 millimole | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | benzonitrile | 25 milliliters | C(C1=CC=CC=C1)#N | C7H5N
product | fluorenone | yield 28% | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
